US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(phenylamino)benzimidazol-1-yl]pyrimidine
To a stirred solution of 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine (54 mg, 0.163 mmol, 1 eq) in CH2Cl2 (3 mL) was added triphenylbismuth (86 mg, 0.196 mmol, 1.2 eq) followed by addition of Cu(OAc)2 (30 mg, 0. 163 mmol, 1 eq). The reaction was stirred at room temperature for 24 h, then diluted with CH2Cl2 and washed with water. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The material was purified by preparative thin layer chromatography giving 43 mg of the desired product. 1H NMR (500 MHz, CDCl3): δ 1.64 (3H, d, J=7 Hz), 5.21 (1H, br), 5.74 (1H, br), 5.80 (1H, s), 6.75 (1H, d, J=5.5 Hz), 6.93 (1H, t, J=7 Hz), 7.08 (2H, d, J=8 Hz), 7.55 (1H, s), 7.7 (1H, br, 8.38 (1H, d, J=5 Hz), 8.45 (1H, br s). Mass spectrum (ESI) 407.3 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine | 0.163 mmol, 54 mg, 1 eq | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | triphenylbismuth | 0.196 mmol, 86 mg, 1.2 eq | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 163 mmol, 30 mg, 1 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 2-[(S)-1-Phenylethylamino]-4-[5-(phenylamino)benzimidazol-1-yl]pyrimidine | 43 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)NC2=CC=CC=C2 | C25H22N6
